US08629143B2
7-phenylthieno[2,3-d]pyridazin-4(5H)-one
A solution of n-BuLi (2.5 M in hexanes, 3.44 mL, 8.6 mmol) was added to diisopropylamine (1.25 mL, 8.9 mmol) in THF (5 mL) at 0° C. and stirred for 15 minutes. This solution was added quickly to a 0° C. solution of thiophene-3-carboxylic acid (0.500 g, 3.91 mmol) in THF (20 mL), and stirred for 5 min. Benzoic anhydride (0.972 g, 4.30 mmol) was then added, the ice bath was removed, and the mixture was stirred overnight, concentrated, dissolved in EtOH (25 mL), stirred with hydrazine hydrate (1.35 mL, 23.9 mmol) at 80° C. for 7 h, concentrated, and diluted with EtOAc, washed with saturated aqueous NaHCO3 and brine, dried (Na2SO4), and filtered. The residue was chromatographed on SiO2 (5% MeOH/CH2Cl2) to give impure title compound (84.4 mg, 0.370 mmol) as a white solid. LC/MS (APCI) M/Z 229.0 (M+H)+.

reactant | n-BuLi | 8.6 mmol, 2.5 M, 3.44 mL | [Li]CCCC
reactant | diisopropylamine | 8.9 mmol, 1.25 mL | C(C)(C)NC(C)C | C6H15N
reactant | thiophene-3-carboxylic acid | 3.91 mmol, 0.500 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | Benzoic anhydride | 4.30 mmol, 0.972 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | hydrazine hydrate | 23.9 mmol, 1.35 mL | O.NN
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-phenylthieno[2,3-d]pyridazin-4(5H)-one | 0.370 mmol, 84.4 mg | C1(=CC=CC=C1)C1=NNC(C2=C1SC=C2)=O | C12H8N2OS
